US04309443
N-Formyl-2-(4-acetylphenyl)-1,1-dimethylethanamine
This was prepared in an identical manner to the compound described in Description 10 using aluminum chloride (26 g), acetyl bromide (115 ml) and N-formyl-2-phenyl-1, 1-dimethylethanamine (101.5 g) in 1,2-dichloroethane, (850 ml). τ(CDCl3). 8.62 (6H, s), 7.45 (3H, s), 7.1+6.85 (2H, s+s), 3.85 (1H, broad) 2.7 (2H, d, J=8 Hz) 2.1 (2H, d, J=8 Hz), 1.9 (1H, s).

reactant | aluminum chloride | 26 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetyl bromide | 115 ml | C(C)(=O)Br | C2H3BrO
reactant | N-formyl-2-phenyl-1, 1-dimethylethanamine | 101.5 g | C(=O)NC(CC1=CC=CC=C1)(C)C | C11H15NO
solvent | 1,2-dichloroethane | 850 ml | ClCCCl | C2H4Cl2
product | N-Formyl-2-(4-acetylphenyl)-1,1-dimethylethanamine | C(=O)NC(CC1=CC=C(C=C1)C(C)=O)(C)C | C13H17NO2
